US07456169B2
1-(4-chloro-2-methoxybenzyl)-2-methyl-1H-imidazole
2-Methyl imidazole (45 mg, 0.55 mmol) was dissolved in DMF. Sodium hydride (60 mg, 1.5 mmol) was added slowly. The mixture was stirred at room temperature until bubbling ceased. 1-Bromomethyl-4-chloro-2-methoxy-benzene (117 mg, 0.5 mmol) was added and the mixture was heated to 100° C. for 16 hours. The mixture was cooled to room temperature, diluted with ethyl acetate, and washed with water and with brine. The organic layer was dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel (1:1 hexanes/ethyl acetate) to provide 47 mg (40%) of the title compound. MS (ESI) m/e 237 (M+H)+.

reactant | 2-Methyl imidazole | 0.55 mmol, 45 mg | CC=1NC=CN1 | C4H6N2
reactant | Sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 1-Bromomethyl-4-chloro-2-methoxy-benzene | 0.5 mmol, 117 mg | BrCC1=C(C=C(C=C1)Cl)OC | C8H8BrClO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-chloro-2-methoxybenzyl)-2-methyl-1H-imidazole | 47 mg, 40% | ClC1=CC(=C(CN2C(=NC=C2)C)C=C1)OC | C12H13ClN2O
